US05478842
using an analogous procedure to that described in Example 5, 6-iodo-1-methyl-2-oxo-1,2,3,4-tetrahydroquinazoline was reacted with (2S,4R)-4-(tert-butyldimethylsilyloxy)-4-(3-mercaptophenyl)-2methyltetrahydropyran to give (2S,4R)-4-(tert-butyldimethylsilyloxy)2-methyl-4-[3-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinazolin-6-ylthio)phenyl]tetrahydropyran in 41% yield as a foam. A mixture of the material so formed (0.12 g) and tetrabutylammonium fluoride (1M in THF, 5 ml) was stirred and heated to reflux for 2 hours. The mixture was cooled to ambient temperature and partitioned between ethyl acetate and water. The organic solution was dried (Na2SO4) and evaporated. The residue was purified by column chromatography using increasingly polar mixtures of methylene chloride and methanol as eluent. There was thus obtained (2S,4R)-4-hydroxy-2-methyl-4-[3-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinazolin-6-ylthio)phenyl]tetrahydropyran (0.07 g) as a gum;

reactant | 6-iodo-1-methyl-2-oxo-1,2,3,4-tetrahydroquinazoline | IC=1C=C2CNC(N(C2=CC1)C)=O | C9H9IN2O
reactant | (2S,4R)-4-(tert-butyldimethylsilyloxy)-4-(3-mercaptophenyl)-2methyltetrahydropyran | [Si](C)(C)(C(C)(C)C)O[C@]1(C[C@@H](OCC1)C)C1=CC(=CC=C1)S | C18H30O2SSi
product | (2S,4R)-4-(tert-butyldimethylsilyloxy)2-methyl-4-[3-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinazolin-6-ylthio)phenyl]tetrahydropyran | 41% yield | [Si](C)(C)(C(C)(C)C)O[C@]1(C[C@@H](OCC1)C)C1=CC(=CC=C1)SC=1C=C2CNC(N(C2=CC1)C)=O | C27H38N2O3SSi
